US06022894
3-Chloro-2-cyanophenol (0.55 g, 3.58 mmol) was dissolved in 10 mL of dimethylformamide, and the solution cooled to 0° C. Sodium hydride (0.158 g, 3.94 mmol 60% in oil), washed with hexane and dimethylformamide, was added to cooled solution over a period of one minute. After stirring for 10 minutes at room temperature, (2R)-(-)-glycidyl 3-nitrobenzenesulfonate was added and stirred 16 hours. The reaction was poured into ether and dilute sodium hydroxide. The ether layer was separated and the aqueous layer extracted once more with ether. The combined ether extracts were washed with water and saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated to give 0.7 g of (R)-3-chloro-2-cyanophenyl glycidyl ether.

reactant | 3-Chloro-2-cyanophenol | 3.58 mmol, 0.55 g | ClC=1C(=C(C=CC1)O)C#N | C7H4ClNO
reactant | Sodium hydride | 3.94 mmol, 0.158 g | [H-].[Na+]
reactant | (2R)-(-)-glycidyl 3-nitrobenzenesulfonate | C1[C@@H](O1)COS(=O)(=O)C2=CC=CC(=C2)[N+](=O)[O-] | C9H9NO6S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
product | (R)-3-chloro-2-cyanophenyl glycidyl ether | 0.7 g | C([C@H]1CO1)OC1=C(C(=CC=C1)Cl)C#N | C10H8ClNO2
